US07179926B2
Methyl 3-cyano-2-phenylpropanoate:
DL-tropic acid (10 g, 120 mmol), 2,2-dimethoxypropane (12.48 g, 120 mmol) and catalytical amount of p-toluenesulfonic acid (100 mg) were mixed in MeOH (50 ml) and refluxed overnight. The reaction mixture was cooled and concentrated in-vacuo to dryness and then dissolved in ethyl acetate. The organic phase was washed with water, brine and dried with sodium sulfate, and concentrated in-vacuo to dryness. The crude product was dissolved in anhydrous mentylene chloride (150 ml). Triethylamine (7.27 g, 72 mmol) and methanesulfonyl chloride (8.24 g, 72 mmol) were added and stirred at room temperature overnight before it was washed with water, brine and dried with sodium sulfate. The concentrated residue was heated with KCN (5.88 g, 120 mmol) and tetrabutylammonium cyanide (2 g, 7.4 mmol) in DMF at 80° C. for 1 hour. After cooled down to room temperature, reaction mixture was diluted with methylene chloride, washed with water, brine and dried with Na2SO4. After concentration in-vacuo, the crude product was purified by silica flash chromatography (10% ethyl acetate in hexanes) to afford 6.4 g of the desired product as a yellowish solid (58% in three steps). 1H NMR (500 MHz, CDCl3) δ: 7.37 (m, 3 H), 7.27 (m, 2 H), 3.94 (t, J=7.63 Hz, 1 H), 3.73 (s, 3 H), 3.04 (dd, J=16.79, 7.63 Hz, 1 H), 2.81 (dd, J=17.09, 7.63 Hz, 1H).

reactant | DL-tropic acid | 120 mmol, 10 g | C1=CC=C(C=C1)C(CO)C(=O)O | C9H10O3
reactant | 2,2-dimethoxypropane | 120 mmol, 12.48 g | COC(C)(C)OC | C5H12O2
reactant | Triethylamine | 72 mmol, 7.27 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 72 mmol, 8.24 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | KCN | 120 mmol, 5.88 g | [C-]#N.[K+]
solvent | MeOH | 50 ml | CO | CH4O
catalyst | tetrabutylammonium cyanide | 7.4 mmol, 2 g | [C-]#N.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Methyl 3-cyano-2-phenylpropanoate | 6.4 g, 58% | C(#N)CC(C(=O)OC)C1=CC=CC=C1 | C11H11NO2
